US07625889B2
Step 2: 4-Amino-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester:
A slurry of 10% palladium on carbon (200 mg) in water was added to 4-oxo-piperidine-1-carboxylic acid-2-trimethylsilanyl-ethyl ester (2.42 g, 10 mmol) in 100 mL of methanol. Ammonium formate (6.0 g, 95 mmol) in water was added dropwise, and the mixture stirred vigorously overnight. The mixture was filtered and the filtrate concentrated in vacuo to leave the crude product. Chromatography (elution with methanol-dichloromethane) provided 0.98 g of product.

reactant | 4-oxo-piperidine-1-carboxylic acid-2-trimethylsilanyl-ethyl ester | 10 mmol, 2.42 g | C[Si](CCOC(=O)N1CCC(CC1)=O)(C)C | C11H21NO3Si
reactant | Ammonium formate | 95 mmol, 6.0 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | water | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 4-Amino-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 0.98 g | C[Si](CCOC(=O)N1CCC(CC1)N)(C)C | C11H24N2O2Si
